US07700641B2
Synthesis of ethyl 5-(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)pentanoate
Following the procedure described in EXAMPLE 10.47, and making non-critical variations using spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one to replace 4′-bromospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one, and ethyl 5-bromovalerate to replace 2-(bromomethyl)-5-(trifluoromethyl)furan, the title compound was obtained (62%) as a gummy material: 1H NMR (300 MHz, CDCl3) δ 7.28 (t, 1H), 7.14 (d, 1H), 7.03 (t, 1H), 6.88 (d, 1H), 6.48 (s, 1H), 6.13 (s, 1H), 5.84 (d, 2H), 4.76 (ABq, 2H), 4.07 (q, 2H), 3.87-3.65 (m, 2H), 2.35 (t, 2H), 1.80-1.64 (m, 4H), 1.20 (t, 3H); 13C NMR (75 MHz, CDCl3) δ 177.4, 173.1, 155.9, 148.8, 142.3, 142.2, 132.5, 128.9, 124.04, 123.3, 119.5, 108.6, 103.0, 101.5, 93.6, 80.5, 60.4, 58.2, 39.9, 33.7, 26.8, 22.2, 14.2; MS (ES+) m/z 432.09 (M+23).

reactant | spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | N1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C16H11NO4
reactant | 4′-bromospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | BrC1=C2C3(C(NC2=CC=C1)=O)COC=1C3=CC3=C(OCO3)C1 | C16H10BrNO4
reactant | ethyl 5-bromovalerate | BrCCCCC(=O)OCC | C7H13BrO2
reactant | 2-(bromomethyl)-5-(trifluoromethyl)furan | BrCC=1OC(=CC1)C(F)(F)F | C6H4BrF3O
product | ethyl 5-(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)pentanoate | O=C1N(C2=CC=CC=C2C12COC=1C2=CC2=C(OCO2)C1)CCCCC(=O)OCC | C23H23NO6
